US04654335
A suspension of carbonyldiimidazole (15 g. 90%, 92.5 mmole) in anhydrous tetrahydrofuran (55 ml.) is cooled to 0° and treated dropwise with 2-aminothiophenol (11.6 g., 90%, 92.5 mmole). After the addition is completed, the yellow reaction mixture is stirred at room temperature overnight. It is then diluted with ethyl acetate (300 ml.) and washed with water, 2N hydrochloric acid (until acidic washings are obtained), sodium bicarbonate, and brine. After drying over anhydrous magnesium sulfate, the solvent is evaporated to give an off-white solid. It is triturated with isopropyl ether and filtered off (7.57 g.). The mother liquor is evaporated to give a yellow solid which is triturated with isopropyl ether and filtered to give a second crop of 2.04 g. The two crops are combined and recrystallized from dichloromethane-isopropyl ether to give an analytically pure sample of benzothiazolinone; m.p. 136°-138°. TLC (silica gel, ethyl acetate:hexane, 50:50) Rf =0.53.

reactant | carbonyldiimidazole | 92.5 mmole, 15 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-aminothiophenol | 92.5 mmole, 11.6 g | NC1=C(C=CC=C1)S | C6H7NS
reactant | tetrahydrofuran | 55 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | benzothiazolinone | S1(C=NC2=C1C=CC=C2)=O | C7H5NOS
